US08334301B2
ethyl 1-(2,5-difluorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate
To a solution of ethyl 1-(2,5-difluorophenyl)-5-hydroxy-1H-pyrazole-3-carboxylate (2.0 g) in tetrahydrofuran (20 mL) were added triethylamine (905 mg) and N-phenylbis(trifluoromethanesulfonimide) (3.2 g). After stirring at room temperature for 30 min, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=19:1→9:1) to give the title compound as a yellow oil (yield 3.4 g, yield quantitatively).

reactant | ethyl 1-(2,5-difluorophenyl)-5-hydroxy-1H-pyrazole-3-carboxylate | 2.0 g | FC1=C(C=C(C=C1)F)N1N=C(C=C1O)C(=O)OCC | C12H10F2N2O3
reactant | triethylamine | 905 mg | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis(trifluoromethanesulfonimide) | 3.2 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 1-(2,5-difluorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate | FC1=C(C=C(C=C1)F)N1N=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC | C13H9F5N2O5S
